US04684658
A suspension of 5-(3-pyridyl)-2,3-dihydro-1H-pyrrolizine-7-carboxylic acid (11.4 g) in a mixture of thionyl chloride (17.4 cc), dimethylformamide (0.05 cc) and 1,2-dichloroethane (150 cc) is heated at a temperature of about 80° C. for 3 hours. The reaction mixture is cooled to a temperature of about 20° C. and concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature of about 60° C. The residue obtained is suspended in cyclohexane (250 cc) and the solvent is evaporated off under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature of about 60° C. The same operation is repeated twice. 7-Chloroformyl-5-(3-pyridyl)-2,3-dihydro-1H-pyrrolizine hydrochloride (14.1 g) is thus obtained in the form of yellow crystals melting at 230° C.

reactant | 5-(3-pyridyl)-2,3-dihydro-1H-pyrrolizine-7-carboxylic acid | 11.4 g | N1=CC(=CC=C1)C=1N2CCCC2=C(C1)C(=O)O | C13H12N2O2
reactant | dimethylformamide | 0.05 cc | CN(C=O)C | C3H7NO
reactant | 1,2-dichloroethane | 150 cc | ClCCCl | C2H4Cl2
solvent | thionyl chloride | 17.4 cc | S(=O)(Cl)Cl | Cl2OS
solvent | cyclohexane | 250 cc | C1CCCCC1 | C6H12
product | 7-Chloroformyl-5-(3-pyridyl)-2,3-dihydro-1H-pyrrolizine hydrochloride | 14.1 g | Cl.ClC(=O)C=1C=C(N2CCCC12)C=1C=NC=CC1 | InChI=1S/C13H11ClN2O.ClH/c14-13(17)10-7-12(9-3-1-5-15-8-9)16-6-2-4-11(10)16;/h1,3,5,7-8H,2,4,6H2;1H
